US07138075B2
Preparation of 26,28-dimethoxycalix[4]arene-25,27-diol (Method a)
A suspension of calix[4]arene (17.0 g, 40 mmole), anhydrous potassium carbonate (6.08 g, 44 mmole), and methyl tosylate (14.9 g, 80 mmole) were refluxed in CH3CN (500 mL) overnight. After evaporation of the solvent, the mixture was taken up in CH2Cl2 and washed with 1 N HCl and brine. The organic layer was dried with MgSO4 and the solvent was removed in vacuo to afford the product. It was recrystallized from CH3Cl/MeOH to yield white crystals (18.1 g, 98%). mp>300° C. dec. 1H NMR (500 MHz, CDCl3) δ: 7.76 (s, 2H), 7.08 (d, 4H, J=7.5 Hz), 6.88 (d, 4H, J=7.5 Hz), 6.73 (t, 2H, J=7.5 Hz), 6.68 (t, 2H, J=7.5 Hz), 4.31 (d, 4H, J=13.0 Hz), 3.99 (s, 6H), 3.41 (d, 4H, J=13.0 Hz). 13C NMR (125 MHz, CDCl3) δ: 153.2, 153.1, 132.9, 129.0, 128.5, 128.1, 125.3, 119.1, 63.7, 31.1.

reactant | calix[4]arene | 40 mmole, 17.0 g | C1C2=C(C(=CC=C2)CC3=C(C(=CC=C3)CC4=CC=CC(=C4O)CC5=CC=CC1=C5O)O)O | C28H24O4
reactant | potassium carbonate | 44 mmole, 6.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl tosylate | 80 mmole, 14.9 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | CH3CN | 500 mL | CC#N | C2H3N
product | 26,28-dimethoxycalix[4]arene-25,27-diol | 18.1 g, 98% | COC1=C2CC3=C(C(=CC=C3)CC4=C(C(=CC=C4)CC5=CC=CC(=C5O)CC1=CC=C2)OC)O | C30H28O4
